US07476764B2
Step 3: Preparation of 3-acetyl-5-(methyl(propyl)carbamoyl)benzoic acid.
To a solution of methyl 3-acetyl-5-(methyl(propyl)carbamoyl)benzoate (107 mg, 0.386 mmol) in a mixture of THF (0.4 mL), MeOH (0.8 mL) and H2O (2.0 mL), was added LiOH (28 mg, 1.159 mmol) and the mixture was stirred at room temperature for 1 h. The mixture was concentrated and partitioned between ethyl acetate and H2O. The aqueous layer was washed with ethyl acetate twice and acidified with 1N HCl solution to pH around 2˜3. The aqueous layer was extracted with ethyl acetate 3 times and the combined organic layers were dried over sodium sulfate and concentrated under vacuum to give the title compound which was ready for next step without further purification: HPLC retention time: 1.412 min (method A). MS (ESI) (M+H)+ 264.18.

reactant | methyl 3-acetyl-5-(methyl(propyl)carbamoyl)benzoate | 0.386 mmol, 107 mg | C(C)(=O)C=1C=C(C(=O)OC)C=C(C1)C(N(CCC)C)=O | C15H19NO4
reactant | MeOH | 0.8 mL | CO | CH4O
reactant | H2O | 2.0 mL | O | H2O
reactant | LiOH | 1.159 mmol, 28 mg | [Li+].[OH-]
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
product | 3-acetyl-5-(methyl(propyl)carbamoyl)benzoic acid | C(C)(=O)C=1C=C(C(=O)O)C=C(C1)C(N(CCC)C)=O | C14H17NO4
